US08580794B2
5-chloro-6-(1-cyclopropylpiperidin-4-ylamino)pyridine-3-sulfonamide
The title compound was prepared by substituting EXAMPLE 40A for 4-chloro-3-nitrobenzenesulfonamide, 1-cyclopropylpiperidin-4-amine for 4-methylpiperazin-1-amine dihydrochloride and Hunig's base for N1,N1,N2,N2-tetramethylethane-1,2-diamine in EXAMPLE 6A.

reactant | 4-chloro-3-nitrobenzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5ClN2O4S
reactant | 1-cyclopropylpiperidin-4-amine | C1(CC1)N1CCC(CC1)N | C8H16N2
reactant | 4-methylpiperazin-1-amine dihydrochloride | Cl.Cl.CN1CCN(CC1)N
reactant | Hunig's base | CCN(C(C)C)C(C)C | C8H19N
reactant | N1,N1,N2,N2-tetramethylethane-1,2-diamine | CN(CCN(C)C)C | C6H16N2
product | 5-chloro-6-(1-cyclopropylpiperidin-4-ylamino)pyridine-3-sulfonamide | ClC=1C=C(C=NC1NC1CCN(CC1)C1CC1)S(=O)(=O)N | C13H19ClN4O2S
